US04011230
As in Example 17, reaction of 2-(2-nitrovinyl)furan with dimethylammonium dimethyldithiocarbamate in the presence of carbon disulfide gave α-(nitromethyl)furfuryl dimethyldithiocarbamate melting at 67° C.-68° C. after recrystallization from methanol.

reactant | 2-(2-nitrovinyl)furan | [N+](=O)([O-])C=CC=1OC=CC1 | C6H5NO3
reactant | dimethylammonium dimethyldithiocarbamate | CN(C([S-])=S)C.C[NH2+]C
solvent | carbon disulfide | C(=S)=S | CS2
product | α-(nitromethyl)furfuryl dimethyldithiocarbamate | CN(C(SC(C1=CC=CO1)C[N+](=O)[O-])=S)C | C9H12N2O3S2
